US05877174
A mixture of 0.5 g of 1-(2-azidoethyl)-2,3-dioxopiperazine, 1.72 g of diphenylmethyl 3-(3-pyridyl)-acrylate, 0.2 ml of 1,8-diazabicyclo[5.4.0]undec-7-ene and 2.5 ml of N,N-dimethylformamide was stirred at room temperature for 12 hours. The solvent was distilled off under reduced pressure, after which 30 ml of ethyl acetate and 20 ml of water were added to the resulting residue and the pH was adjusted to 6 with 2N hydrochloric acid. The organic layer was separated and the aqueous layer was extracted with 30 ml of ethyl acetate. The combined organic layer was washed with 20 ml of water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent; chloroform: methanol=20:1) to obtain 0.71 g of diphenylmethyl 3-[4-(2-azidoethyl)-2,3-dioxopiperazin-1-yl]-3-(pyridin-3-yl)propionate as a light-brown oil.

reactant | 1-(2-azidoethyl)-2,3-dioxopiperazine | 0.5 g | N(=[N+]=[N-])CCN1C(C(NCC1)=O)=O | C6H9N5O2
reactant | diphenylmethyl 3-(3-pyridyl)-acrylate | 1.72 g | N1=CC(=CC=C1)C=CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C21H17NO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.2 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | diphenylmethyl 3-[4-(2-azidoethyl)-2,3-dioxopiperazin-1-yl]-3-(pyridin-3-yl)propionate | 0.71 g | N(=[N+]=[N-])CCN1C(C(N(CC1)C(CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=NC=CC1)=O)=O | C27H26N6O4
